US05530138
1-(1- Azabicyclo[3.3.0]octan-5-yl)methylamino-4-methoxynaphthalene
To lithium aluminum hydride (1.76 g, 46.3 mmol) in THF (43 ml), 1-[N-(1-Azabicyclo[3.3.0 ]octan-5-yl )methyl-N-formylamino]-4-methoxynaphthalene (3.00 g, 9.26 mmol) in THF (15 ml) was added dropwise at room temperature. After refluxed for 1 hour, the reaction mixture was cooled and chilled water was added dropwise. Formed solids were removed by filtration and the filtrate was concentrated in vacuo and purified by chromatography to afford the desired compound (1.80 g, 62.7%), as a pale yellow liquid.

reactant | lithium aluminum hydride | 46.3 mmol, 1.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-[N-(1-Azabicyclo[3.3.0 ]octan-5-yl )methyl-N-formylamino]-4-methoxynaphthalene | 9.26 mmol, 3.00 g | N12CCCC2(CCC1)CN(C=O)C1=CC=C(C2=CC=CC=C12)OC | C20H24N2O2
reactant | water | O | H2O
solvent | THF | 43 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(1- Azabicyclo[3.3.0]octan-5-yl)methylamino-4-methoxynaphthalene | 1.80 g, 62.7% | N12CCCC2(CCC1)CNC1=CC=C(C2=CC=CC=C12)OC | C19H24N2O
